US08729263B2
The reaction mixture of (3aR,6aS)-tert-butyl 5-(6-chloropyridazin-3-yl)hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate (325 mg, 1 mmol), 5-chloro-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (280 mg, 1.100 mmol), sodium carbonate (318 mg, 3.00 mmol) and PdCl2(dppf).CH2Cl2 (61.2 mg, 0.075 mmol) in dioxane (5 mL) and water (5.00 mL) was degassed by bubbling N2 for 10 minutes. After heating at 90° C. overnight, the reaction mixture was filtered through celite and washed with EtOAc. The filtrate was concentrated and the residue was purified by silica gel chromatography (0-10% MeOH/DCM) to afford (3aR,6aS)-tert-butyl 5-(6-(4-chloro-2-hydroxyphenyl)pyridazin-3-yl)hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate (180 mg, 0.432 mmol, 43.2% yield) MS (M+1)=417.0.

reactant | (3aR,6aS)-tert-butyl 5-(6-chloropyridazin-3-yl)hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate | 1 mmol, 325 mg | ClC1=CC=C(N=N1)N1C[C@@H]2[C@H](C1)CN(C2)C(=O)OC(C)(C)C | C15H21ClN4O2
reactant | 5-chloro-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 1.100 mmol, 280 mg | ClC=1C=CC(=C(C1)O)B1OC(C(O1)(C)C)(C)C | C12H16BClO3
reactant | sodium carbonate | 3.00 mmol, 318 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | CH2Cl2 | 0.075 mmol, 61.2 mg | C(Cl)Cl | CH2Cl2
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | 5.00 mL | O | H2O
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (3aR,6aS)-tert-butyl 5-(6-(4-chloro-2-hydroxyphenyl)pyridazin-3-yl)hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate | 0.432 mmol, 180 mg, 43.2% yield | ClC1=CC(=C(C=C1)C1=CC=C(N=N1)N1C[C@@H]2[C@H](C1)CN(C2)C(=O)OC(C)(C)C)O | C21H25ClN4O3
